US05155113
Preparation of 5-chloro-2,4-distearoyloxypyridine
A 2.00 g quantity of 5-chloro-4-hydroxy-2-pyridone was refluxed in 150 ml of pyridine to obtain a uniform solution. To the solution was added 5.85 g of stearoyl chloride and the mixture was subjected to reaction at room temperature overnight. After completion of the reaction, the pyridine was concentrated and the concentrate was extracted with petroleum ether. The petroleum ether layer was concentrated and subjected to silica gel column chromatography using as an eluent petroleum ether-chloroform (1:9), giving 1.40 g of the title compound in a yield of 15%.

reactant | 5-chloro-4-hydroxy-2-pyridone | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
reactant | stearoyl chloride | 5.85 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-2,4-distearoyloxypyridine | 1.40 g, yield of 15% | ClC=1C(=CC(=NC1)OC(CCCCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCCCC)=O | C41H72ClNO4
